US05994368
To a solution of 8-[2,6-dichloro-3-[N-(3-methoxycarbonylpropionyl)-N-methylamino]benzyloxy]-2-methylquinoline (303 mg) in methanol (3 ml) was added 1N aqueous solution of sodium hydroxide (1.0 ml) at ambient temperature. The mixture was stirred for 1 hour and neutralized to pH 4 with 1N hydrochloric acid. The reaction mixture was diluted with chloroform and washed with water. The aqueous layer was saturated with sodium chloride and extracted with chloroform. The combined organic layers were dried over magnesium sulfate and evaporated in vacuo to give 8-[3-[N-(3-carboxypropionyl)-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylquinoline (242 mg) as an off-white powder.

reactant | 8-[2,6-dichloro-3-[N-(3-methoxycarbonylpropionyl)-N-methylamino]benzyloxy]-2-methylquinoline | 303 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C)C(CCC(=O)OC)=O)Cl | C23H22Cl2N2O4
reactant | sodium hydroxide | 1.0 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 8-[3-[N-(3-carboxypropionyl)-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylquinoline | 242 mg | C(=O)(O)CCC(=O)N(C)C=1C(=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC1)Cl)Cl | C22H20Cl2N2O4
